US09353075B2
Step 1. Preparation of 8-benzylidene-1,4-dioxaspiro-[4.5]-decane
To a suspension of NaH (0.306 g, 12.8 mmol) in DMSO (10 mL), a solution of benzyl-triphenylphosphonium bromide (5.44 g, 12.8 mmol) in DMSO (30 mL) was slowly added at rt. The solution was stirred 30 min at rt and then further 30 min at 50° C. Upon the crude mixture turning into dark red color, a solution of 1,4-dioxaspiro[4.5]decan-8-one (2.0 g, 12.8 mmol) in DMSO (14 mL) was added. The solution was stirred at 50° C. for 16 h. The reaction mixture was quenched with water and the aqueous layer extracted with AcOEt (3×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness to give a crude product, which was purified by column chromatography using a Teledyne ISCO apparatus, eluting with Cy/AcOEt (from 100:0 to 40:60) to afford the title compound (1.8 g, 61%) as a white solid. 1H NMR (CDCl3): δ 1.66-1.73 (m, 2H), 1.77-1.84 (m, 2H), 2.40-2.47 (m, 2H), 2.49-2.57 (m, 2H), 3.99 (s, 4H), 6.31 (s, 1H), 7.17-7.23 (m, 3H), 7.28-7.35 (m, 2H).

reactant | NaH | 12.8 mmol, 0.306 g | [H-].[Na+]
reactant | benzyl-triphenylphosphonium bromide | 12.8 mmol, 5.44 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 12.8 mmol, 2.0 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | DMSO | 14 mL | CS(=O)C | C2H6OS
product | 8-benzylidene-1,4-dioxaspiro-[4.5]-decane | 1.8 g, 61% | C(C1=CC=CC=C1)=C1CCC2(OCCO2)CC1 | C15H18O2
